US04863920
67.8 g (190 mmol) of 8-fluoro-4,5-dihydro-3-iodo-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one was heated to boiling under reflux for 8 hours with 23.4 g (238 mmol) of ethynyltrimethylsilane, 300 mg of bis-(triphenylphosphine)-palladium(II) dichloride and 70 mg of copper(I) iodide in 280 ml of diethylamine and 25 ml of ethylene chloride. The reaction mixture was evaporated and the residue was chromatographed on silica gel while eluting with chloroform/ethyl acetate (3:1). By recrystallization from ethyl acetate there was obtained 8-fluoro-4,5-dihydro-5-methyl-3-[(trimethylsilyl)ethynyl]-6H-imidazo-[1,5-a][1,4]benzodiazepin-6-one of melting point 184°-185°.

reactant | 8-fluoro-4,5-dihydro-3-iodo-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 190 mmol, 67.8 g | FC=1C=CC2=C(C(N(CC=3N2C=NC3I)C)=O)C1 | C12H9FIN3O
reactant | ethynyltrimethylsilane | 238 mmol, 23.4 g | C(#C)[Si](C)(C)C | C5H10Si
solvent | diethylamine | 280 ml | C(C)NCC | C4H11N
solvent | ethylene chloride | 25 ml | C(CCl)Cl | C2H4Cl2
catalyst | bis-(triphenylphosphine)-palladium(II) dichloride | 300 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 70 mg | [Cu]I
product | 8-fluoro-4,5-dihydro-5-methyl-3-[(trimethylsilyl)ethynyl]-6H-imidazo-[1,5-a][1,4]benzodiazepin-6-one | FC=1C=CC2=C(C(N(CC=3N2C=NC3C#C[Si](C)(C)C)C)=O)C1 | C17H18FN3OSi
